US09163021B2
Ethyl (2Z)-2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate
To a solution of ethyl 4,4,4-trifluoro-3-oxobutanoate (20 g, 108.63 mmol) in acetic anhydride (39 mL) was added triethylorthoformate (54.2 mL, 325.89 mmol) and the reaction heated to reflux for 18 hours. The reaction was cooled, concentrated in vacuo and used directly in the next step.

reactant | ethyl 4,4,4-trifluoro-3-oxobutanoate | 108.63 mmol, 20 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | triethylorthoformate | 325.89 mmol, 54.2 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | acetic anhydride | 39 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl (2Z)-2-(ethoxymethylene)-4,4,4-trifluoro-3-oxobutanoate | C(C)O\C=C(/C(=O)OCC)\C(C(F)(F)F)=O | C9H11F3O4
